US07572820B2
2-Ethyl-1-(1-ethylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 145B from 2-ethyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-bromopentane: MS (ESI): m/z 309 (M+1).

reactant | 2-ethyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C(C)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C12H9F3N2
reactant | 3-bromopentane | BrC(CC)CC | C5H11Br
product | 2-Ethyl-1-(1-ethylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C(C)C=1N(C2=CC=C(C(=C2C1)C(F)(F)F)C#N)C(CC)CC | C17H19F3N2
